US07098226B2
2-(1-Adamantyl)-N-pentylethylamine hydrochloride (Intermediate No. 1-1)
Pentylamine (2.69 ml, 23.2 mmol), potassium carbonate (2.14 g, 15.5 mmol) and sodium iodide (2.30 g, 15.3 mmol) were added to a solution of 2-(1-adamantyl)ethyl methanesulfonate (2.07 g, 8.01 mmol) in ethanol (45.8 ml), and the mixture was refluxed for 17 hours. The reaction mixture was concentrated under reduced pressure, and the concentrate was diluted with chloroform (100 ml). This was washed with a 1 N aqueous sodium hydroxide solution (100 ml) and a saturated aqueous sodium chloride solution (100 ml) successively, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography. A 4 N solution of hydrogen chloride in ethyl acetate (3.1 ml) was added to a solution of the resulting free form (1.52 g, 6.10 mmol) of the titled compound in ethyl acetate (0.50 ml). The precipitated solid was washed with ethyl acetate and filtered off to give 1.33 g (60%) of the titled compound.

reactant | Pentylamine | 23.2 mmol, 2.69 ml | C(CCCC)N | C5H13N
reactant | potassium carbonate | 15.5 mmol, 2.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 15.3 mmol, 2.30 g | [I-].[Na+]
reactant | 2-(1-adamantyl)ethyl methanesulfonate | 8.01 mmol, 2.07 g | CS(=O)(=O)OCCC12CC3CC(CC(C1)C3)C2 | C13H22O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 45.8 ml | C(C)O | C2H6O
solvent | ethyl acetate | 3.1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-Adamantyl)-N-pentylethylamine hydrochloride | 6.10 mmol, 1.52 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCNCCCCC | InChI=1S/C17H31N.ClH/c1-2-3-4-6-18-7-5-17-11-14-8-15(12-17)10-16(9-14)13-17;/h14-16,18H,2-13H2,1H3;1H
